US07776857B2
[Lithium 7-chlorothieno[3,2-b]pyridine-2-carboxylate (100 mg, 455 μmol) was dissolved in CH2Cl2(5 mL) with one drop of DMF and oxalyl chloride (2 mL) was added. The mixture was stirred at RT for one hour then concentrated and dried under high vacuum. Morpholine (60 μl, 683 μmol) was then added to the mixture with N-ethyl-N-isopropylpropan-2-amine (238 μl, 1366 μmol) and the mixture was stirred for 20 hours. The mix was then concentrated and purified using 0 to 100% 90/10/1 CH2Cl2/MeOH/ammonium hydroxide in CH2Cl2 to afford (7-chlorothieno[3,2-b]pyridin-2-yl)(morpholino)methanone.

reactant | Lithium 7-chlorothieno[3,2-b]pyridine-2-carboxylate | 455 μmol, 100 mg | ClC1=C2C(=NC=C1)C=C(S2)C(=O)[O-].[Li+]
reactant | Morpholine | 683 μmol, 60 μl | N1CCOCC1 | C4H9NO
reactant | N-ethyl-N-isopropylpropan-2-amine | 1366 μmol, 238 μl | C(C)N(C(C)C)C(C)C | C8H19N
solvent | CH2Cl2 | 5 mL | C(Cl)Cl | CH2Cl2
catalyst | DMF | one drop | CN(C)C=O | C3H7NO
solvent | oxalyl chloride | 2 mL | C(C(=O)Cl)(=O)Cl | C2Cl2O2
product | (7-chlorothieno[3,2-b]pyridin-2-yl)(morpholino)methanone | ClC1=C2C(=NC=C1)C=C(S2)C(=O)N2CCOCC2 | C12H11ClN2O2S
